US05047554
The title compound was prepared according to the procedure of Example 32. The reaction of 10 ml of thionyl chloride with 1.39 g (6.7 mmoles) of 4-methylsulfonyl-2-thiophenecarboxylic acid (prepared according to Arndt, F., et al., Chem. Ber. 94:1757 (1961)) gave 1.54 g of the crude acid chloride as a solid. The entire amount of 4-methylsulfonyl-2-thiophenecarbonyl chloride was coupled to 1.28 g (6.1 mmoles) of 5-chloro-2-oxindole-1-carboxamide in the presence of 2.24 g (18.3 mmoles) 4-(N,N-dimethylamino)pyridine. Acidic workup gave 2.28 g of crude product as an orange solid. Recrystallization from -butanone gave two crops of slightly impure yellow crystalline solid which had a combined mass of 2.18 g. Further purification by recrystallization provided 1.19 g (2.98 mmoles, 49% yield) of pure 5-chloro-3-(4-methylsulfonyl-2-thenoyl)-2-oxindole-1-carboxamide as a yellow crystalline solid, m.p. 228°-30° C. (acetic acid).

reactant | 4-methylsulfonyl-2-thiophenecarbonyl chloride | CS(=O)(=O)C=1C=C(SC1)C(=O)Cl | C6H5ClO3S2
reactant | 5-chloro-2-oxindole-1-carboxamide | 6.1 mmoles, 1.28 g | ClC=1C=C2CC(N(C2=CC1)C(=O)N)=O | C9H7ClN2O2
catalyst | 4-(N,N-dimethylamino)pyridine | 18.3 mmoles, 2.24 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-chloro-3-(4-methylsulfonyl-2-thenoyl)-2-oxindole-1-carboxamide | 2.98 mmoles, 1.19 g, 49% yield | ClC=1C=C2C(C(N(C2=CC1)C(=O)N)=O)C(C1=CC(=CS1)S(=O)(=O)C)=O | C15H11ClN2O5S2
